US08835432B2
(S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethanamine
A 5 L three-neck round bottom flask equipped with an overhead stirrer, thermocouple and reflux condenser with a nitrogen inlet was charged with (S)-2-(1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione (193 g, 392 mmol), water (1351 mL) and hydrazine, 35 wt. % solution in water (711 mL, 785 mmol). The resulting white slurry was vigorously stirred at 65° C. under nitrogen for 6 h and then it was allowed to cool to rt overnight. After this time LC-MS analysis showed complete conversion to the desired product. The white solid was isolated by filtration, washed with water and dried on the glass filter under a stream of nitrogen for 4 h to give (S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethanamine (129.7 g). Mass Spectrum (ESI) m/z=362.0 (M+1).

reactant | (S)-2-(1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 392 mmol, 193 g | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)S(=O)(=O)C | C25H18ClN3O4S
reactant | hydrazine | NN | H4N2
solvent | water | 1351 mL | O | H2O
solvent | water | 785 mmol, 711 mL | O | H2O
product | (S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethanamine | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N)C1=C(C=CC=C1)S(=O)(=O)C | C17H16ClN3O2S
